US03944560
3-Chloro-6-(1-cyanoethoxy)-phenyl-formate (56.4 g., 0.25 mole) is added to a solution of 85% potassium hydroxide (17.1 g., 0.26 mole) in 95% alcohol (200 ml.) at ambient temperature, and the mixture then stirred overnight under nitrogen. The reaction mixture is treated with a slight excess of dilute hydrochloric acid, and most of the alcohol removed under reduced pressure. The product is extracted with ether, the ethereal extract is washed with water, then with 5% sodium carbonate solution and again with water. The ethereal extract then is dried over magnesium sulfate and then over calcium sulfate and the ether removed by evaporation yielding 3-chloro-6-(1-cyanoethoxy)-phenol, which is crystallized from chloroform-petroleum ether.

reactant | 3-Chloro-6-(1-cyanoethoxy)-phenyl-formate | 0.25 mole, 56.4 g | ClC=1C=C(C(=CC1)OC(C)C#N)C(=O)[O-]
reactant | potassium hydroxide | 0.26 mole, 17.1 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
product | 3-chloro-6-(1-cyanoethoxy)-phenol | ClC=1C=C(C(=CC1)OC(C)C#N)O | C9H8ClNO2
